US09056874B2
2-((7-Ethyl-5-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of 2-((5-methyl-7-vinyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (11 mg, 0.035 mmol) in EtOAc (0.7 mL) was added Pd/C (5%, 3.75 mg) and the reaction was stirred at room temperature under hydrogen. After 10 minutes the reaction was filtered through Celite®, rinsing with EtOAc, and concentrated. The resulting residue was purified directly by RP-HPLC (HC-A) to provide the title compound. 1H NMR (TFA salt, 400 MHz, DMSO-d6) δ ppm 10.97 (br. s., 1H) 7.98 (s, 1H) 7.61 (d, J=8.34 Hz, 1H) 7.53 (d, J=8.34 Hz, 1H) 7.23 (t, J=2.78 Hz, 1H) 6.79 (s, 1H) 6.45 (dd, J=3.16, 1.89 Hz, 1H) 4.46 (s, 2H) 2.81 (q, J=7.58 Hz, 2H) 2.37 (s, 3H) 1.25 (t, J=7.45 Hz, 3H). HRMS calcd. for C20H18N4 (M+H)+ 315.1604. found 315.1609.

reactant | 2-((5-methyl-7-vinyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.035 mmol, 11 mg | CC=1C(=C2C=CNC2=C(C1)C=C)CC1=NC2=C(N1)C=CC(=C2)C#N | C20H16N4
solvent | EtOAc | 0.7 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 3.75 mg | [Pd] | Pd
product | 2-((7-Ethyl-5-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C=C(C(=C2C=CNC12)CC1=NC2=C(N1)C=CC(=C2)C#N)C | C20H18N4
